US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(5-CHLORO-2-NITROBENZYL)AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 5-chloro-2-nitro-benzaldehyde according to the procedure of step 1, Example 66. MS (ESI) m/z 548.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 5-chloro-2-nitro-benzaldehyde | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}(5-CHLORO-2-NITROBENZYL)AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC1=C(C=CC(=C1)Cl)[N+](=O)[O-])C(F)(F)F | C30H21ClF3N3O2
